US05580863
Oxalyl chloride (22.09 g) was added dropwise to a mixture of 4-nitrobenzylphosphonic acid (17.99 g), pyridine (13.76 g) and tetrahydrofuran (500 ml) at -78° C. After the mixture was stirred at -78° C. for 30 minutes and then at room temperature for 1.5 hours, the insoluble solid was filtered off. The flitrate was concentrated under reduced pressure, and the residual oily substance was dissolved in tetrahydrofuran (500 ml). To this solution, a solution of 1,3-propanediol (2.58 g) in acetonitrile (30 ml) was added dropwise at -78° C. over a 15-minute period. Then, pyridine (5.62 g) was added dropwise at -78° C. over a 5-minute period, and the mixture was stirred at room temperature for 15 hours. After the insoluble solid was filtered off, the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-chloroform-methanol (10:10:1, v/v) to yield 2-(4-nitrobenzyl)-1,3,2-dioxaphosphorinane-2-oxide (5.62 g, 26%), which was then recrystallized from ethanol-hexane to yield colorless needles having a melting point of 144° to 145° C.

reactant | Oxalyl chloride | 22.09 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-nitrobenzylphosphonic acid | 17.99 g | [N+](=O)([O-])C1=CC=C(CP(O)(O)=O)C=C1 | C7H8NO5P
reactant | pyridine | 13.76 g | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-(4-nitrobenzyl)-1,3,2-dioxaphosphorinane-2-oxide | 5.62 g, 26% | [N+](=O)([O-])C1=CC=C(CP2(OCCCO2)=O)C=C1 | C10H12NO5P
